US07504408B2
N-{5chloro-7-[3-(cyclopropylmethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-yl}-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
This was prepared using the method described in example 4 using 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (200 mg, 0.59 mmol), 5-chloro-7-[3-(cyclopropylmethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine (182 mg, 0.65 mmol) and a solution of sodium bis(trimethylsilyl)amide (1.0M in THF, 1.24 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (247 mg, 72%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 0.23 (m, 2H), 0.51 (m, 2H), 1.04 (m, 1H), 1.96 (quintet, 2H), 2.38 (m, 4H), 2.46 (t, 2H), 3.37 (d, 2H), 3.59 (m, 4H), 3.93 (s, 3H), 4.20 (t, 2H), 4.42 (s, 2H), 6.16 (s, 2H), 7.15 (s, 1H), 7.19 (s, 1H), 7.84 (s, 1H), 8.34 (s, 1H), 9.52 (s, 1H); Mass Spectrum: M+H+ 581/583.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 5-chloro-7-[3-(cyclopropylmethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine | 0.65 mmol, 182 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCOCC1CC1)N | C14H14ClNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.24 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{5chloro-7-[3-(cyclopropylmethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-yl}-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 247 mg, 72% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOCC1CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C30H33ClN4O6
